US07384963B2
N-[4-(4-Acetylaminophenoxy)phenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-(acetylaminophenoxy)aniline using method I. LCMS; retention time 3.42 min, MH+ 519.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-(acetylaminophenoxy)aniline | C(C)(=O)NC1=C(OC2=CC=C(N)C=C2)C=CC=C1 | C14H14N2O2
product | N-[4-(4-Acetylaminophenoxy)phenyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C(C)(=O)NC1=CC=C(OC2=CC=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C31H26N4O4
